US05462941
1.70 g of o-(5-bromo-2-thenoyl)benzoic acid and hydrazine hydrate were dissolved in 40 ml of ethanol, and the solution was refluxed for 4 hours. After cooling the solution, it was crystallized by adding ether, thereby obtaining 315 mg of 4-(5-bromo-4-methyl-2-thienyl)-1-phthalazinone.

reactant | o-(5-bromo-2-thenoyl)benzoic acid | 1.70 g | BrC1=CC=C(S1)C(=O)C1=C(C(=O)O)C=CC=C1 | C12H7BrO3S
reactant | hydrazine hydrate | O.NN
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 4-(5-bromo-4-methyl-2-thienyl)-1-phthalazinone | 315 mg | BrC1=C(C=C(S1)C1=NNC(C2=CC=CC=C12)=O)C | C13H9BrN2OS
